US08486967B2
b) (4-Benzyl-6-methyl-pyrimidin-2-yl)-[1-(3-methyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-yl]-amine
To a solution of 4-(4-benzyl-6-methyl-pyrimidin-2-ylamino)-piperidine-1-carbonitrile (135 mg, 0.44 mmol) and acetamidoxime (39 mg, 0.53 mmol) in EtOAc (1 mL) and THF (1 mL) was added within 10 minutes a solution of zinc chloride (73 mg, 0.53 mmol) in EtOAc (1 mL). After stirring at room temperature for 4 hours the reaction was heated to reflux over night under nitrogen. The reaction was diluted with water and extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using CH2Cl2/MeOH 19:1 (v/v) as eluent. The title compound was obtained as a colorless gum (98 mg, 61%).

reactant | 4-(4-benzyl-6-methyl-pyrimidin-2-ylamino)-piperidine-1-carbonitrile | 0.44 mmol, 135 mg | C(C1=CC=CC=C1)C1=NC(=NC(=C1)C)NC1CCN(CC1)C#N | C18H21N5
reactant | acetamidoxime | 0.53 mmol, 39 mg | C(C)(N)=NO | C2H6N2O
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
catalyst | zinc chloride | 0.53 mmol, 73 mg | [Cl-].[Zn+2].[Cl-]
product | (4-Benzyl-6-methyl-pyrimidin-2-yl)-[1-(3-methyl-[1,2,4]oxadiazol-5-yl)-piperidin-4-yl]-amine | C(C1=CC=CC=C1)C1=NC(=NC(=C1)C)NC1CCN(CC1)C1=NC(=NO1)C | C20H24N6O
